US05162318
To a solution of 6-chloro-1,3-dihydro-1-(2-piperidinoethyl)-2H-benzimidazol-2-one in ethanol (30 ml) was added concentrated hydrochloric acid (330 μl ) and the mixture was allowed to stand for 4 hours. The separating crystals were collected by suction and dried at 60° C. under reduced pressure to give 1.05 g of 6-chloro-1,3-dihydro-1-(2-piperidinoethyl)-2H-benzimidazol-2-one hydrochloride.

reactant | 6-chloro-1,3-dihydro-1-(2-piperidinoethyl)-2H-benzimidazol-2-one | ClC=1C=CC2=C(N(C(N2)=O)CCN2CCCCC2)C1 | C14H18ClN3O
reactant | hydrochloric acid | 330 μl | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6-chloro-1,3-dihydro-1-(2-piperidinoethyl)-2H-benzimidazol-2-one hydrochloride | 1.05 g | Cl.ClC=1C=CC2=C(N(C(N2)=O)CCN2CCCCC2)C1 | InChI=1S/C14H18ClN3O.ClH/c15-11-4-5-12-13(10-11)18(14(19)16-12)9-8-17-6-2-1-3-7-17;/h4-5,10H,1-3,6-9H2,(H,16,19);1H
